US07144908B2
iii) N-Benzyl-N-{(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-[(triethylsilyl)oxy]ethyl}amine
A mixture of {[(1R)-2-bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethyl]oxy}(triethyl)silane (130 g) and benzylamine (177 ml) in 1,4-dioxane (650 ml) was heated at 105° C. with stirring overnight. The mixture was then cooled to room temperature and water (150 ml) and diethyl ether (1200 ml) added. The layers were separated and the ethereal layer was washed with saturated ammonium chloride solution (3×600 ml), saturated sodium bicarbonate solution (200 ml) and then brine (200 ml). The solution was dried over anhydrous Na2SO4 before being filtered and concentrated under reduced pressure to give the title compound (129.9 g) as an oil, δ (CDCl3) 7.22 (5H, m), 7.02 (1H, d, J 8.7 Hz), 6.86 (1H, s), 6.68 (1H, d, J 8.3 Hz), 4.75 (2H, s), 4.69 (1H, m), 3.73 (2H, s), 2.70 (2H, m), 1.46 (6H, s), 0.79 (9H, m), 0.44 (6H, m).

reactant | {[(1R)-2-bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethyl]oxy}(triethyl)silane | 130 g | BrC[C@@H](C1=CC2=C(OC(OC2)(C)C)C=C1)O[Si](CC)(CC)CC | C18H29BrO3Si
reactant | benzylamine | 177 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 150 ml | O | H2O
reactant | diethyl ether | 1200 ml | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 650 ml | O1CCOCC1 | C4H8O2
product | N-Benzyl-N-{(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-[(triethylsilyl)oxy]ethyl}amine | 129.9 g | C(C1=CC=CC=C1)NC[C@H](O[Si](CC)(CC)CC)C1=CC2=C(OC(OC2)(C)C)C=C1 | C25H37NO3Si
